### PR TITLE
Add the DPI for the f-divergence in the general case

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
- Add the file `Indicator.lean` with the lemma `mulIndicator_le_mulIndicator'`.
- Add lemmas about `EReal`.
- Reorganize the file `CurvatureMeasure.lean`.
- Add `StieltjesFunction.measure_Iio`, `StieltjesFunction.measure_Ioi_of_tendsto_atTop_atTop` and similar lemmas about the meaure of intervals under the measure induced by a Stieltjes function.
- Add `lintegral_statInfoFun_one_zero`, `fDiv_eq_lintegral_fDiv_statInfoFun_of_mutuallySingular` and `fDiv_eq_lintegral_fDiv_statInfoFun`.
- Generalize `fDiv_comp_right_le_of_absolutelyContinuous` (DPI for the f-divergence) and rename it to `fDiv_comp_right_le'`.
- Add some consequences of the DPI: `le_fDiv_compProd'`, `fDiv_compProd_right'`, `fDiv_comp_le_compProd'`, `fDiv_comp_le_compProd_right'`, `fDiv_fst_le'`, `fDiv_snd_le'`.

Depends on #119.

### CODE REVIEW

File: TestingLowerBounds/CurvatureMeasure.lean [hunk 1]
```diff
@@ -13,15 +13,75 @@ import Mathlib.Analysis.SpecialFunctions.Gamma.BohrMollerup
...
+--PR this to mathlib, just after `StieltjesFunction.measure_Ici`
+lemma measure_Ioi {l : ℝ} (hf : Tendsto f atTop (𝓝 l)) (x : ℝ) :
+    f.measure (Ioi x) = ofReal (l - f x) := by
+  rw [← Ici_diff_left, measure_diff _ (measurableSet_singleton x), measure_singleton,
+    f.measure_Ici hf, ← ofReal_sub _ (sub_nonneg.mpr <| Monotone.leftLim_le f.mono' (le_refl _))]
+    <;> simp
+
+--PR this and the following lemmas to mathlib, just after `StieltjesFunction.measure_univ`
+lemma measure_Ioi_of_tendsto_atTop_atTop (hf : Tendsto f atTop atTop) (x : ℝ) :
+    f.measure (Ioi x) = ⊤ := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/CurvatureMeasure.lean]: for ENNReal, please use the infinity sign instead of top.

File: TestingLowerBounds/ForMathlib/EReal.lean [hunk 2]
```diff
@@ -2,16 +2,29 @@ import Mathlib.Data.Real.EReal
...
-open scoped ENNReal NNReal
+open scoped ENNReal NNReal Topology
+open Filter
 
 namespace EReal
 
 instance : CharZero EReal := inferInstanceAs (CharZero (WithBot (WithTop ℝ)))
 
+lemma eq_coe_of_ne_top_of_ne_bot {x : EReal} (hx : x ≠ ⊤) (hx' : x ≠ ⊥) : ∃ r : ℝ, x = r := by
+  induction x <;> tauto
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/EReal.lean]: I don't know where you use this, but in most cases you should be able to replace it with 
`lift x to ℝ using ⟨hx, hx'⟩` (or something similar; I am writing this from memory). So that lemma is probably not needed?

File: TestingLowerBounds/ForMathlib/Tendsto.lean [hunk 3]
```diff
@@ -0,0 +1,23 @@
...
+
+open Filter Set
+
+open scoped  Topology
+
+variable {α β : Type*} [TopologicalSpace β] {f : α → β} {b : β} {l : Filter α}
+
+--I'm not sure if something that easily implies those lemmas already exists in mathlib, they can probably be proved in a simpler and more elegant way than I did.
+
+lemma tendsto_nhdsWithin_of_tendsto_nhds_right {t : Set β} (hf : ∀ᶠ x in l, f x ∈ t)
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/Tendsto.lean]: [tendsto_nhdsWithin_of_tendsto_nhds_of_eventually_within](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/ContinuousOn.html#tendsto_nhdsWithin_of_tendsto_nhds_of_eventually_within)

Comment (LorenzoLuccioli) [reply TestingLowerBounds/ForMathlib/Tendsto.lean]: Thank you, I guess then this file is not needed anymore, I will delete it.

**Review by RemyDegenne — APPROVED** [review]
Great!
